US07863291B2
To a solution of N-(6-(difluoromethoxy)benzo[d]thiazol-2-yl)-1H-imidazole-1-carbothioamide (285 mg, 0.87 mmol) in N,N-dimethylformamide (5 mL) was added (S)-3-(aminomethyl)quinuclidin-3-ol, 2HCl (200 mg, 0.87 mmol) and triethylamine (0.4 mL, 2.87 mmol). The reaction was heated to 70° C. for 2 hours. N,N′-diisopropylcarbodiimide (0.4 mL, 2.57 mmol) was then added to the reaction mixture. The mixture was heated at 70° C. for another 3 hours. It was cooled and then poured into toluene/0.3M sodium hydroxide. The product was extracted with toluene (4×) and chloroform (3×). The organics were combined, washed with water (3×), dried over sodium sulfate, filtered and concentrated in vacuo to yield crude product. The crude material was purified via flash chromatography (2-20% [10% ammonium hydroxide/methanol]-chloroform) to afford (R)—N-(6-(difluoromethoxy)benzo[d]thiazol-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (186.2mg, 0.49 mmol, 55.5% yield) as a white powder. M.P. 223-5° C. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.99 (1 H, br. s.), 7.69 (1 H, d, J=2.75 Hz), 7.61 (1 H, d, J=8.55 Hz), 7.02-7.34 (2 H, m), 3.89 (1 H, d, J=10.07 Hz), 3.64 (1 H, d, J=9.77 Hz), 3.03 (2 H, d, J=2.44 Hz), 2.73-2.86 (2 H, m), 2.62-2.70 (2 H, m), 2.07 (1 H, br. s.), 1.92 (1 H, br. s.), 1.54-1.65 (2 H, m), 1.44-1.53 (1H, m). MS (LC/MS) R.T.=1.43; [M+H]+=381.1.

reactant | N-(6-(difluoromethoxy)benzo[d]thiazol-2-yl)-1H-imidazole-1-carbothioamide | 0.87 mmol, 285 mg | FC(OC1=CC2=C(N=C(S2)NC(=S)N2C=NC=C2)C=C1)F | C12H8F2N4OS2
reactant | triethylamine | 2.87 mmol, 0.4 mL | C(C)N(CC)CC | C6H15N
reactant | N,N′-diisopropylcarbodiimide | 2.57 mmol, 0.4 mL | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | toluene | 0.3M | C1(=CC=CC=C1)C | C7H8
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (R)—N-(6-(difluoromethoxy)benzo[d]thiazol-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 0.49 mmol, 186.2mg, 55.5% yield | FC(OC1=CC2=C(N=C(S2)NC=2O[C@]3(CN4CCC3CC4)CN2)C=C1)F | C17H18F2N4O2S
